US06930100B2
Step B. (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-phosphonooxy-propyl ester; (S)-Ib, n=2)
A solution of (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-(di-tert-butoxy-phosphoryloxy)-propyl ester ((S)-VII, n=2) (540 mg, 0.82 mmol) in dichloromethane (30 mL) was stirred with trifluoroacetic acid (0.6 mL) at room temperature for 3 hours. LC-MS indicated the completion of the reaction. After removal of the solvent the residue was dissolved in methanol and the crude product was purified by prep. HPLC, affording the title compound 255 mg (57%) as white solid after lyophilization. 1H NMR (CDCl3, 500 MHz) δ 8.27 (s, 1H), 7.73 (d, 1H), 7.42 (d, 1H), 7.32 (d, 1H), 7.27 (d, 1H), 6.75 (d, 1H), 4.50 (b, 6H, containing some H2O as solvate), 4.54 (m, 2H), 4.17 (b, 2H), 3.49 (s, 3H), 2.1 (m, 2H); MS (m/e) 539.92 (M+−1); LC-MS, 542 (MH+, 98.5%); 31P NMR (CDCl3, 500 MHz) δ 2.03; 19F NMR (CDCl3, 500 MHz) δ−63.4, 153.8; Anal. Calcd. for C20H17ClF4NO8P: C=44.34%, H=3.16%, N=2.58%; Found: C=44.01%, H=3.11%, N=2.45%.

reactant | (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-(di-tert-butoxy-phosphoryloxy)-propyl ester | 0.82 mmol, 540 mg | C(C)(C)(C)OP(=O)(OC(COC(=O)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O)C)OC(C)(C)C | C28H33ClF4NO8P
reactant | trifluoroacetic acid | 0.6 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-phosphonooxy-propyl ester | 255 mg, 57% | P(=O)(O)(O)OC(COC(=O)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O)C | C20H17ClF4NO8P
